US07932271B2
t-Butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N′-methylsulfonylhydrazine carboxylate
To a methylene chloride (5 ml) solution of t-butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine carboxylate (178 mg, 0.327 mmol) and triethylamine (43 μl, 0.392 mmol) was added methanesulfonyl chloride (30 μl, 0.392 mmol) at 0° C. The resulting mixture was stirred at room temperature for 16 hours. To the reaction mixture were added triethylamine (43 μl, 0.392 mmol) and methanesulfonyl chloride (30 μl, 0.392 mmol). After stirring at room temperature for 3 hours, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was diluted with ethyl acetate. The diluted solution was washed sequentially with a saturated aqueous solution of sodium bicarbonate and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=4:1) eluate was concentrated under reduced pressure to give the title compound (174 mg, 0.280 mmol, 85%) as a white solid.

reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | t-butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]hydrazine carboxylate | 0.327 mmol, 178 mg | ClC=1C(=CC(=NC1)NNC(=O)OC(C)(C)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C23H21Cl2F2N3O4S
reactant | triethylamine | 0.392 mmol, 43 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.392 mmol, 30 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.392 mmol, 43 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.392 mmol, 30 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | t-Butyl N′-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N′-methylsulfonylhydrazine carboxylate | 0.280 mmol, 174 mg, 85% | ClC=1C(=CC(=NC1)N(NC(=O)OC(C)(C)C)S(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C24H23Cl2F2N3O6S2
